US04950677
40.7 g of 4,5-difluoro-o-phenylenediamine dihydrochloride were suspended in 655 ml of isopropanol. A solution of 22.5 g of potassium hydroxide in 250 ml of water was added dropwise thereto while stirring and the mixture was treated with 39.7 g of potassium ethyl xanthogenate, whereupon the solution was boiled at reflux overnight, then diluted with 300 ml of water and made neutral with glacial acetic acid. The resulting suspension was stirred at 60°-70° for an additional hour. The isopropanol was largely removed from the mixture in a vacuum. After the addition of 1 liter of water, the solid was filtered off washed with water and then dissolved in ether. The solution was then extracted with 1.2 liters of water, treated with active charcoal, dried and evaporated in a vacuum. The residue was suspended in petroleum etber (low boiling) and filtered off. There was obtained 5,6-difluoro-2-benzimidazolethiol of melting point above 300°.

reactant | 4,5-difluoro-o-phenylenediamine dihydrochloride | 40.7 g | Cl.Cl.FC1=CC(=C(C=C1F)N)N
reactant | potassium hydroxide | 22.5 g | [OH-].[K+]
reactant | potassium ethyl xanthogenate | 39.7 g | CCOC(=S)[S-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | isopropanol | 655 ml | C(C)(C)O | C3H8O
solvent | water | 250 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 5,6-difluoro-2-benzimidazolethiol | FC1=CC2=C(N=C(N2)S)C=C1F | C7H4F2N2S
